US06022492
Synthesis of 5-(2,3-difluoro-4-octylphenyl)-2-(6-octyloxypyridin-3-yl)pyrimidine
The reaction of 3.5 mmol of 5-bromo-2-(6-octyloxypyridin-3-yl)pyrimidine, 3.85 mmol of 2,3-difluoro-4-octylphenylboronic acid, 7 mmol of sodium carbonate and 0.04 mmol of tetrakis(triphenylphosphine)palladium(0) in 20 ml of toluene: 10 ml of ethanol and 10 ml of water it carried out analogously to the procedure indicated for Example 1a). The crude product is separated off by column chromatography on silica gel 60 using heptane/ethyl acetate 9:1 (v/v) as eluent and is recrystallized from acetonitrile, giving 1.5 g (83%) of colorless crystals, X 105 SC 104 SA 127 I.

reactant | 5-bromo-2-(6-octyloxypyridin-3-yl)pyrimidine | 3.5 mmol | BrC=1C=NC(=NC1)C=1C=NC(=CC1)OCCCCCCCC | C17H22BrN3O
reactant | 2,3-difluoro-4-octylphenylboronic acid | 3.85 mmol | FC1=C(C=CC(=C1F)CCCCCCCC)B(O)O | C14H21BF2O2
reactant | sodium carbonate | 7 mmol | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.04 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 10 ml | O | H2O
product | 5-(2,3-difluoro-4-octylphenyl)-2-(6-octyloxypyridin-3-yl)pyrimidine | 1.5 g, 83% | FC1=C(C=CC(=C1F)CCCCCCCC)C=1C=NC(=NC1)C=1C=NC(=CC1)OCCCCCCCC | C31H41F2N3O
